US06713508B2
Step F: Ethyl 7-(3-(3-trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propoxy)-2-ethylchromane-2-carboxylate
To a 2 ml DMF solution of ethyl 7-(3-bromopropoxy)-2-ethylchromane-2-carboxylate (40 mg, 0.108 mmol) and 3-trifluoromethyl-7-propyl-6-hydroxybenzisoxazole (U.S. Pat. No. 6,090,836) (29 mg, 0.118 mmol) was added cesium carbonate (39 mg, 0.12 mmol). The resulting suspension was heated to 70° C. for 5 hr. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and water. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on silica gel. Elution with 20% AcOEt/hexanes gave the title compound as a pale yellow oil 49 mg (85%).

reactant | ethyl 7-(3-bromopropoxy)-2-ethylchromane-2-carboxylate | 0.108 mmol, 40 mg | BrCCCOC1=CC=C2CCC(OC2=C1)(C(=O)OCC)CC | C17H23BrO4
reactant | 3-trifluoromethyl-7-propyl-6-hydroxybenzisoxazole | FC(C1=NOC2=C1C=CC(=C2CCC)O)(F)F | C11H10F3NO2
reactant | cesium carbonate | 0.12 mmol, 39 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Ethyl 7-(3-(3-trifluoromethyl-7-propyl-6-benz-[4,5]-isoxazoloxy)propoxy)-2-ethylchromane-2-carboxylate | 49 mg, 85% | FC(C1=NOC2=C1C=CC(=C2CCC)OCCCOC2=CC=C1CCC(OC1=C2)(C(=O)OCC)CC)(F)F | C28H32F3NO6
